US04179514
Preparation of 4-[[O-[N-methyl-N-(2,4-dimethyl-3-oxo-2-pentanesulfenyl)carbamoyl]oximino]]-5-methyl-1,3-oxathiolane
Prepared as in Example I by reacting 2.64 g (0.02 m) of 5-methyl-4-oximino-1,3-oxathiolane, 4.47 g (0.02 m) of N-methyl-N-(2,4-dimethyl-3-oxo-2-pentanesulfenyl)carbamoyl chloride and 2.02 g (0.02 m) of triethylamine in 25 ml of dioxane. Crystallized from isopropyl etherto yield 1.2 g of a white solid, m.p. 90°-92° C.

reactant | 5-methyl-4-oximino-1,3-oxathiolane | 2.64 g | CC1C(SCO1)=NO | C4H7NO2S
reactant | N-methyl-N-(2,4-dimethyl-3-oxo-2-pentanesulfenyl)carbamoyl chloride | 4.47 g | CN(C(=O)Cl)SC(C)(C(C(C)C)=O)C | C9H16ClNO2S
reactant | triethylamine | 2.02 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 4-[[O-[N-methyl-N-(2,4-dimethyl-3-oxo-2-pentanesulfenyl)carbamoyl]oximino]]-5-methyl-1,3-oxathiolane | CN(C(=O)ON=C1SCOC1C)SC(C)(C(C(C)C)=O)C | C13H22N2O4S2
